US07390809B2
Step A: 2,2,2-Trifluoro-N-pyrazin-2-ylacetamide
To a slightly heterogeneous solution of aminopyrazine (22.74 g, 239 mmol) and triethylamine (36.66 mL, 263 mmol) in dichloromethane (400 mL) was added trifluoroacetic anhydride (50.20 g, 239 mmol) dropwise at 0° C. The solution was stirred at 0° C. for 1 h and at ambient temperature for 2 h. Filtration of the resultant white precipitate followed by washing with dichloromethane afforded the title compound as a white solid.

reactant | aminopyrazine | 239 mmol, 22.74 g | NC1=NC=CN=C1 | C4H5N3
reactant | triethylamine | 263 mmol, 36.66 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 239 mmol, 50.20 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 400 mL | ClCCl | CH2Cl2
product | 2,2,2-Trifluoro-N-pyrazin-2-ylacetamide | FC(C(=O)NC1=NC=CN=C1)(F)F | C6H4F3N3O
